US05885990
Preparation of 6-amidino-1-(2-ethoxycarbonylethyl)-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate.dihydrochloride:
30 Milliliters of 20% hydrous pyridine was added to 1.12 g of 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride, 1.5 g of 6-amidino-1-(2-ethoxycarbonylethyl)-2-naphthol.hydrochloride, 1.44 g of DCC and 56.7 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 48 hours at room temperature. Furthermore, 1.44 g of DCC, 5 ml of 20% hydrous pyridine and 10 ml of DMF were added, followed by stirring for 24 hours at room temperature. Then, the precipitate was filtered and the filtrate was concentrated rated under reduced pressure. To the residue was added 20 ml of DMF, and the resulting solution was added dropwise to 400 ml of ether, followed by stirring for 24 hours under cooling with ice. The supernatant was decanted to obtain a crude product. This was subjected to silica gel column chromatography using methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 10 ml of ethanol and 1.55 ml of concentrated hydrochloric acid, followed by stirring for 1 hour under cooling with ice. Then, the precipitate was collected by filtration to obtain 307.9 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride | 1.12 g | Cl.N1C(=NCC1)NC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-(2-ethoxycarbonylethyl)-2-naphthol.hydrochloride | 1.5 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CCC(=O)OCC)O
reactant | DCC | 1.44 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DCC | 1.44 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 56.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-amidino-1-(2-ethoxycarbonylethyl)-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate.dihydrochloride | 307.9 mg | Cl.Cl.N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CCC(=O)OCC)C=C1 | InChI=1S/C26H27N5O4.2ClH/c1-2-34-23(32)12-10-21-20-9-5-18(24(27)28)15-17(20)6-11-22(21)35-25(33)16-3-7-19(8-4-16)31-26-29-13-14-30-26;;/h3-9,11,15H,2,10,12-14H2,1H3,(H3,27,28)(H2,29,30,31);2*1H
